US07138393B2
{1-[3–Chloro-4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-1H-pyrazol-3-yl}methanol
A stirred solution of methyl 1-[3-chloro-4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-1H-pyrazole-3-carboxylate (0.14 g, 0.31 mmol) in tetrahydrofuran (5 mL) was heated at reflux and treated with a solution of 2.0 M lithium borohydride in tetrahydrofuran (3 mL, 6.0 mmol) in three 1 mL aliquots over 1.5 hours. After cooling to room temperature, the reaction was quenched with 2 N hydrochloric acid, and extracted with ethyl acetate (3×). The combined organic phase was washed with water, dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo to a residue. Trituration of the residue with a mixture of methyl tert-butyl ether and hexane afforded a white amorphous powder which was purified by preparative normal phase high-performance liquid chromatography on a Primesphere® silica gel column (50 mm×250 mm), eluting with 100% methyl tert-butyl ether at a flow rate of 70 mL/min. to yield, after evaporation of the solvent, the title compound (0.05 g, 0.11 mmol, 37%) as a colorless amorphous solid, m.p. 85° C.;

reactant | methyl 1-[3-chloro-4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-1H-pyrazole-3-carboxylate | 0.31 mmol, 0.14 g | ClC=1C=C(C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)N2N=C(C=C2)C(=O)OC | C24H19ClN4O3
reactant | lithium borohydride | 2.0 M | [BH4-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6.0 mmol, 3 mL | O1CCCC1 | C4H8O
product | {1-[3–Chloro-4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-1H-pyrazol-3-yl}methanol | 0.11 mmol, 0.05 g, 37% | ClC=1C=C(C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)N2N=C(C=C2)CO | C23H19ClN4O2
